US05278158
To a mixture of 8.05 g 2-(3,4-dihydro-2,2-dimethyl-7-nitro-2H-1,4-benzoxazin-4-yl)pyridine N-oxide, 28.50 g ammonium chloride, 140 ml methanol and 140 ml water, was added 34.94 g zinc powder under ice cooling, and the resulting mixture was stirred at 5° C. for 14 hours. The insoluble matters were filtered off from the reaction mixture, the filtrate was concentrated, the concentrate was extracted with ethyl acetate, the extract was dried over anhydrous magnesium sulfate, and the solvents were distilled off form the dried solution, giving 7.32 g of crude 2-(7-amino-3,4-dihydro-2,2-dimethyl-2H-1,4-benzoxazin-4-yl)pyridine N-oxide.

reactant | 2-(3,4-dihydro-2,2-dimethyl-7-nitro-2H-1,4-benzoxazin-4-yl)pyridine N-oxide | 8.05 g | CC1(OC2=C(N(C1)C1=[N+](C=CC=C1)[O-])C=CC(=C2)[N+](=O)[O-])C | C15H15N3O4
reactant | ammonium chloride | 28.50 g | [Cl-].[NH4+]
reactant | methanol | 140 ml | CO | CH4O
catalyst | zinc | 34.94 g | [Zn] | Zn
solvent | water | 140 ml | O | H2O
product | 2-(7-amino-3,4-dihydro-2,2-dimethyl-2H-1,4-benzoxazin-4-yl)pyridine N-oxide | 7.32 g | NC1=CC2=C(N(CC(O2)(C)C)C2=[N+](C=CC=C2)[O-])C=C1 | C15H17N3O2
